US05445762
1-(3,3-Dimethylbutyroyl)-1-aza-4,7,10,13,16-pentaoxacyclooctadecane
Analogously to Example 14 from 1-aza-4,7,10,13,16-pentaoxacyclooctadecane and 3,3-dimethylbutyryl chloride.

reactant | 1-aza-4,7,10,13,16-pentaoxacyclooctadecane | N1CCOCCOCCOCCOCCOCC1 | C12H25NO5
reactant | 3,3-dimethylbutyryl chloride | CC(CC(=O)Cl)(C)C | C6H11ClO
product | 1-(3,3-Dimethylbutyroyl)-1-aza-4,7,10,13,16-pentaoxacyclooctadecane | CC(CC(=O)N1CCOCCOCCOCCOCCOCC1)(C)C | C18H35NO6
